US08389524B2
(f) N-[3-Bromo-6-(methyloxy)-2-pyridinyl]-2,2-dimethyl-N-[(2-oxo-1,3-dioxolan-4-yl)methyl]propanamide
A solution of N-[3-bromo-6-(methyloxy)-2-pyridinyl]-N-(2,3-dihydroxypropyl)-2,2-dimethylpropanamide (7.628 g, 21.130 mmol) in DCM (100 ml) and pyridine (3.407 ml, 42.26 mmol) at −78° C. under argon was treated with a solution of triphosgene (6.27 g, 21.130 mmol) in DCM (20 ml) over 5 min and the reaction was then allowed warm to rt and stirred at rt for 30 min. The reaction was then carefully treated with saturated sodium bicarbonate solution (200 ml), extracted with DCM (3×200 ml). The organic extracts were dried (MgSO4), and evaporated and chromatographed (0-50% ethyl acetate:Hexane) to give the product as a white solid (5.722 g, 70%).

reactant | N-[3-bromo-6-(methyloxy)-2-pyridinyl]-N-(2,3-dihydroxypropyl)-2,2-dimethylpropanamide | 21.130 mmol, 7.628 g | BrC=1C(=NC(=CC1)OC)N(C(C(C)(C)C)=O)CC(CO)O | C14H21BrN2O4
reactant | pyridine | 42.26 mmol, 3.407 ml | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 21.130 mmol, 6.27 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[3-Bromo-6-(methyloxy)-2-pyridinyl]-2,2-dimethyl-N-[(2-oxo-1,3-dioxolan-4-yl)methyl]propanamide | 5.722 g, 70% | BrC=1C(=NC(=CC1)OC)N(C(C(C)(C)C)=O)CC1OC(OC1)=O | C15H19BrN2O5
